US07179934B2
(2R,3R,4S)-3-(2,3-Dimethyl-pentanoyl)-4-phenyl-oxazolidin-2-one
A 20 L jacketed reactor was fit with a gas inlet and a 2 L dripping funnel. A nitrogen sweep was begun over the reactor and maintained throughout the process. To the reactor was charged 392 g (9.26 mol) of lithium chloride, 1332 g (6.479 mol) of copper bromide dimethylsulfide complex and 11 L of tetrahydrofuran. The reaction was stirred for 30 minutes at room temperature and then cooled to −15° C. To the reaction mixture was added 4.268 L (12.80 mol) of 3.0M methyl magnesium chloride at a rate such that the reaction temperature did not exceed −10° C. Upon completion of the addition, the cuprate solution was allowed to stir at −5° C. overnight. To the cuprate solution was added 500 g (3.09 mol) of (S)-3-((E)-2-methyl-pent-2-enoyl)-4-phenyl-oxazolidin-2-one as a solid. The reaction was stirred at −3° C. for 2 hours. The reaction solution was charged to a 22 L round bottom flask containing 800 mL of acetic acid and 2 L of tetrahydrofuran at a rate such that the temperature of the quench solution did not exceed 25° C. To the quenched solution was added 6 L water. The resulting emulsion was filtered and the layers were separated. The organic layer was extracted with 9 L of 4.8 M NH4OH followed by 9 L of saturated NH4Cl. The organic layer was clarified through a plug of magnesol. The organic layer was concentrated to give 822 g of a crude solid. The crude solid was recrystallized from 8 L of 20% H2O in MeOH, filtered and dried in a vacuum oven to give 550 g of a white solid. The white solid was recrystallized from 5 L of 20% H2O in MeOH, filtered and dried in a vacuum oven to give 475 g of the titled compound: 1H-NMR (DMSO) 7.338–7.224 (m, 5H), 5.431–5.399 (q, 1H, J=4.288), 4.696–4.652 (t, 1H, J=8.773), 4.120–4.087 (m, 1H), 3.622–3.556 (m, 1H), 1.648–1.584 (m, 1H), 1.047–0.968 (m, 1H), 0.900–0.883 (d, 3H, J=6.823), 0.738–0.721 (d, 3H, J=6.628), 0.693–0.656 (t, 3H, J=7.408); Anal Calc'd for C16H21N1O3: C, 69.79; H, 7.69; N, 5.09. Found: C, 69.81; H, 7.61; N, 5.07; MS (Ion Mode: APCl) m/z=276 [M+1]+.

reactant | lithium chloride | 9.26 mol, 392 g | [Cl-].[Li+]
reactant | methyl magnesium chloride | 12.80 mol, 3.0M, 4.268 L | C[Mg]Cl
reactant | (S)-3-((E)-2-methyl-pent-2-enoyl)-4-phenyl-oxazolidin-2-one | 3.09 mol, 500 g | C/C(/C(=O)N1C(OC[C@@H]1C1=CC=CC=C1)=O)=C\CC | C15H17NO3
solvent | water | 6 L | O | H2O
solvent | tetrahydrofuran | 2 L | O1CCCC1 | C4H8O
solvent | acetic acid | 800 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 11 L | O1CCCC1 | C4H8O
product | (2R,3R,4S)-3-(2,3-Dimethyl-pentanoyl)-4-phenyl-oxazolidin-2-one | 550 g | C[C@@H](C(=O)N1C(OC[C@@H]1C1=CC=CC=C1)=O)[C@@H](CC)C | C16H21NO3
